US08222416B2
A mixture of 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (315 mg, 0.79 mmol) and 10% palladium on activated carbon (100 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) for 6 h. The mixture was cooled to room temperature. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo and purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-ethyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (60 mg, 18.9%) as a light yellow solid: LC/MS m/e calcd for C21H24N2O4S [M+H]+ 401.5, observed 401.3.

reactant | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 0.79 mmol, 315 mg | CS(=O)(=O)C1=CC=C(C=C1)C(=CC1OCCC1)C1=CC=2C(=NC=C(C2)OC)N1 | C21H22N2O4S
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-ethyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 60 mg, 18.9% | CS(=O)(=O)C1=CC=C(C=C1)C(CC1OCCC1)C1=CC=2C(=NC=C(C2)OC)N1 | C21H24N2O4S
